US04226775
To a solution of 5.0 g. of α-[3-(trifluoromethyl)phenyl]-4-morpholineacetonitrile in 200 ml. of tetrahydrofuran stirred at room temperature is added 30 drops of 30% potassium hydroxide in ethanol. To the mixture is added 10 ml. of ethyl acrylate. After one hour an additional 30 drops of 30% potassium hydroxide in ethanol and 10 ml. of ethyl acrylate is added. The mixture is stirred for 2 hours and the solvent removed under vacuum. Toluene is added several times and the solvent removed. The residue is stirred with ether, filtered and the solvent evaporated to give ethyl γ-cyano-γ-[3-(trifluoromethyl)phenyl]-4-morpholinebutanoate (5.6 g.) as an oil. The oil is heated with 70% glacial acetic acid for 2 hours and the solvent removed. The residue is dissolved in dichloromethane and washed with water. The organic layer is dried (Na2SO4) and the solvent removed to give an oil. A mixture of the oil and 300 ml. of 6 N hydrochloric acid is refluxed for 5 hours, cooled and extracted with dichloromethane. The organic layer is extracted with sodium bicarbonate. The aqueous layer is acidified with concentrated hydrochloric acid and extracted with dichloromethane. The extract is dried (Na 2 SO4) and the solvent removed. The residue is crystallized from hexane to give 3-[3-trifluoromethylbenzoyl]propionic acid as crystals, mp. 80°-82° C.

reactant | α-[3-(trifluoromethyl)phenyl]-4-morpholineacetonitrile | FC(C=1C=C(C=CC1)C(C#N)N1CCOCC1)(F)F | C13H13F3N2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
catalyst | potassium hydroxide | 30 drops | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
catalyst | potassium hydroxide | 30 drops | [OH-].[K+]
product | ethyl γ-cyano-γ-[3-(trifluoromethyl)phenyl]-4-morpholinebutanoate | 5.6 g | C(#N)C(CCC(=O)OCC)(N1CCOCC1)C1=CC(=CC=C1)C(F)(F)F | C18H21F3N2O3
